US06329366B1
To a stirred solution of 6-fluoro-3-(1,2,3,6-tetrahydro-4-pyridinyl)-1H-indole (1.0 g, 0.00462 mol) and triethylamine (0.77 ml, 0.00555 mol) in DMF (60 ml), was added dropwise under nitrogen 2-bromoethanol (0.42 ml, 0.00555 mol) then allowed to stir at room temperature overnight. Workup involved addition of ethyl acetate (80 ml) and water (50 ml), the organic layer was washed with water (4×50 ml). The organic layer was dried (MgSO4) and concentrated in vacuo to afford 2-(4-(6-fluoro-1H-indol-3-yl)-3,6-dihydro-1(2H)-pyridinyl)ethanol as a yellow solid 1.02 g.

reactant | 6-fluoro-3-(1,2,3,6-tetrahydro-4-pyridinyl)-1H-indole | 0.00462 mol, 1.0 g | FC1=CC=C2C(=CNC2=C1)C=1CCNCC1 | C13H13FN2
reactant | triethylamine | 0.00555 mol, 0.77 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl acetate | 80 ml | C(C)(=O)OCC | C4H8O2
reactant | water | 50 ml | O | H2O
solvent | DMF | 60 ml | CN(C)C=O | C3H7NO
product | 2-(4-(6-fluoro-1H-indol-3-yl)-3,6-dihydro-1(2H)-pyridinyl)ethanol | 1.02 g | FC1=CC=C2C(=CNC2=C1)C=1CCN(CC1)CCO | C15H17FN2O
